US07964608B2
4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester (300 mg, 1.13 mmol) was treated with 1-aminobutane following general procedure B to afford 4-butylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (295 mg). Thus obtained amino-ester was hydrolyzed to the corresponding acid in quantitative yield using general procedure D and then transformed into the corresponding ethylamide (220 mg) following general procedure E.

reactant | 4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 1.13 mmol, 300 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C13H12ClNO3
reactant | 1-aminobutane | NCCCC | C4H11N
product | 4-butylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 295 mg, quantitative yield | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NCCCC)OC | C17H22N2O3
